US05808062
6-[4-(Benzoyloxy)phenyl]-4-hydroxy-3-[(phenylmethyl)thio]-2H-pyran-2-one:
The title compound was prepared by Method A using 4'-benzoyloxyacetophenone (1.27 g, 5.31 mmol), lithium bis(trimethyl-silyl)amide (0.977 g, 5.84 mmol), chlorotrimethyl-silane (0.741 mL, 5.84 mmol), THF (58 mL), and diethyl ester of [(phenylmethyl)thio]propanedioic acid (1.00 g, 3.54 mmol). m.p. dec. 205° C.; 1H NMR (400 MHz, DMSO-d6) δ 4.01 (s, 2 H), 6.75 (s, 1 H), 7.21 (m, 1 H), 7.25 (d, 4 H), 7.47 (d, 2 H), 7.63 (t, 2 H), 7.77 (t, 1 H), 7.90 (d, 2 H), 8.16 (d, 2 H).

reactant | 4'-benzoyloxyacetophenone | 5.31 mmol, 1.27 g | C(C1=CC=CC=C1)(=O)OC1=CC=C(C=C1)C(C)=O | C15H12O3
reactant | lithium bis(trimethyl-silyl)amide | 5.84 mmol, 0.977 g | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | chlorotrimethyl-silane | 5.84 mmol, 0.741 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | [(phenylmethyl)thio]propanedioic acid | 3.54 mmol, 1.00 g | C1(=CC=CC=C1)CSC(C(=O)O)C(=O)O | C10H10O4S
solvent | THF | 58 mL | C1CCOC1 | C4H8O
product | 6-[4-(Benzoyloxy)phenyl]-4-hydroxy-3-[(phenylmethyl)thio]-2H-pyran-2-one | C(C1=CC=CC=C1)(=O)OC1=CC=C(C=C1)C1=CC(=C(C(O1)=O)SCC1=CC=CC=C1)O | C25H18O5S
